US07368578B2
A mixture of 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-5-carbaldehyde (990 mg), hydroxylamine hydrochloride (200 mg), pyridine (1 mL) and ethanol (10 mL) was refluxed for 3 hrs. After concentration of the reaction mixture, dilute hydrochloric acid was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was dissolved in acetic anhydride (20 mL), and the mixture was refluxed for 5 hrs. After concentration of the reaction mixture, The residue was subjected to silica gel column chromatography to give 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-5-carbonitrile (850 mg, yield 86%) as colorless crystals from a fraction eluted with ethyl acetate-hexane (1:2, v/v). The crystals were recrystallized from tetrahydrofuran-hexane. melting point: 120-121° C.

reactant | 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-5-carbaldehyde | 990 mg | COC=1C=C(COC2=NN(C(=C2)C=O)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C29H25N3O5
reactant | hydroxylamine hydrochloride | 200 mg | Cl.NO
reactant | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 3-{[3-methoxy-4-(5-methyl-2-phenyl-1,3-oxazol-4-ylmethoxy)benzyl]oxy}-1-phenyl-1H-pyrazole-5-carbonitrile | 850 mg, yield 86% | COC=1C=C(COC2=NN(C(=C2)C#N)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C29H24N4O4
